US04219657
Preparation of 3-(4-chlorophenylthio)-4-oxocyclohexaneacetic acid ethyl ester
58 G. of 4-chlorothiophenol and a solution of 26.5 g. of 85% potassium hydroxide in 1500 ml. of ethanol were each placed in a 3 l. three-necked flask, provided with a condenser, nitrogen inlet, dropping funnel and stirrer. The solution was brought to reflux and a solution of 105 g. of crude 3-bromo-4-oxocyclohexaneacetic acid ethyl ester in 500 ml. of ethanol was added over a period of one hour to the refluxing solution. After the addition, the solution was stirred at reflux for one hour, cooled to room temperature, and filtered to remove the potassium bromide. After removal of the ethanol in vacuo (steam bath, rotary evaporator), 300 ml. of water was added to the residue, the product was extracted three times with 200 ml. of ether and the ether extract dried over anhydrous magnesium sulfate. After removal of ether from a steam bath at atmospheric pressure, the residue, weighing 128 g., was distilled in vacuo. A forerun weighing 28.7 g. was collected at 100°-190° (1 mm.), while 76.4 g. of a main fraction collected at 190°-222° (1 mm.). A gas chromatographic determination of the main fraction showed that 3-(4-chlorophenylthio)-4-oxocyclohexaneacetic acid ethyl ester was present.

reactant | 4-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-bromo-4-oxocyclohexaneacetic acid ethyl ester | C(C)OC(CC1CC(C(CC1)=O)Br)=O | C10H15BrO3
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-chlorophenylthio)-4-oxocyclohexaneacetic acid ethyl ester | C(C)OC(CC1CC(C(CC1)=O)SC1=CC=C(C=C1)Cl)=O | C16H19ClO3S
